US08871756B2
trans-N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]cyclopentane-1,2-diamine
The title compound was prepared in analogy to Example 15-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and trans-cyclopentane-1,2-diamine. MS obsd. (ESI+) [(M+H)+] 437, 1H NMR (400 MHz, CD3OD) δ ppm 8.03 (d, J=7.83 Hz, 1 H), 7.93-7.81 (m, 2 H), 7.67 (t, J=7.45 Hz, 1 H), 7.61 (d, J=8.59 Hz, 1 H), 7.51 (t, J=7.71 Hz, 1 H), 7.47 (d, J=7.58 Hz, 1 H), 6.04 (s, 1 H), 5.25 (s, 2 H), 4.66 (brs, 1 H), 4.40 (brs, 1 H), 4.27 (d, J=7.07 Hz, 1 H), 3.84 (q, J=7.66 Hz, 1 H), 3.75-3.65 (m, 2 H), 2.45 (s, 3 H), 2.40-2.24 (m, 2 H), 2.08-1.79 (m, 3 H), 1.58 (dd, J=13.01, 7.71 Hz, 1 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | trans-cyclopentane-1,2-diamine | [C@@H]1([C@@H](CCC1)N)N | C5H12N2
product | trans-N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]cyclopentane-1,2-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N[C@H]2[C@@H](CCC2)N)C)=O | C24H28N4O2S
